Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Gentamicin / gabapentin
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms ___ ___ year old woman with history of DVT and recent 
hospitalization for asthma who presents with shortness of breath 
and chest pain found to have pneumonia and ___. She had weaned 
her prednisone since discharge to 40mg daily. She reports over 
the last week she was feeling more short of breath and then 
noted left sided chest pain and saw her PCP who diagnosed her 
with pneumonia and treated with Levaquin starting on ___. 
She has had a few fevers with the last one being on ___ to 
100.8. The chest pain she describes as intense and is relieved 
when she leans forward worse when she lies backwards. She 
reports she has been having a low appetite and not eating or 
drinking as much as usually, additionally she has been taking 
800mg of ibuprofen ___ daily for pain. Her cough is 
nonproductive, no hemoptysis, no leg pain swelling. Denies 
dizziness, nausea, vomiting, dysuria.  
 
Past Medical History:
Asthma - no history of intubations.
SI Joint pain s/p injection (___)
LUE venous thrombosis treated with Coumadin
Migraines
 
Social History:
___
Family History:
Mother with breast ca. and HTN. Grandmother with CHF. Sister 
with HTN.
 
Physical Exam:
Admission exam: 
 T98.5 PO,BP 156/92R Lying, HR 83, RR 20, SaO2 100% Ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

Discharge exam:
VS: T97.9 BP 127/80 HR 88 RR 18 O2 99 RA   
General: no acute distress  
HEENT: Sclerae anicteric, MMM 
Lungs: expiratory wheeze in upper lobes, no rhonchi
Chest: focal TTP on L and R sternal margin  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, NT, ND, NABS  
Ext: WWP, no edema 
Skin: Without rashes or lesions  
Neuro: CN2-12 grossly intact, moving all extremities  

 
Pertinent Results:
Admission labs: 

___ 04:47PM BLOOD WBC-12.9*# RBC-3.74* Hgb-10.9* Hct-33.7* 
MCV-90 MCH-29.1 MCHC-32.3 RDW-16.1* RDWSD-53.1* Plt ___
___ 04:47PM BLOOD Neuts-90.1* Lymphs-6.5* Monos-2.0* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.62* AbsLymp-0.84* 
AbsMono-0.26 AbsEos-0.00* AbsBaso-0.03
___ 04:47PM BLOOD Glucose-152* UreaN-24* Creat-1.3* Na-138 
K-4.6 Cl-102 HCO3-22 AnGap-19
___ 07:30AM BLOOD CK(CPK)-216*
___ 04:47PM BLOOD proBNP-30
___ 04:47PM BLOOD cTropnT-<0.01
___ 10:54PM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:30AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2
___ 11:04PM BLOOD Lactate-0.9

Micro: 
___ SPUTUM GRAM STAIN-PENDING; RESPIRATORY 
CULTURE-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


Discharge labs: 

___ 08:50AM BLOOD WBC-13.1* RBC-3.74* Hgb-11.2 Hct-33.6* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-15.9* RDWSD-52.5* Plt ___
___ 08:50AM BLOOD Glucose-76 UreaN-16 Creat-0.8 Na-141 
K-4.0 Cl-103 HCO3-23 AnGap-19
___ 08:50AM BLOOD Calcium-9.0 Phos-4.0 Mg-2.3

Imaging: 

CTA Chest
1.  No evidence of pulmonary embolism or aortic abnormality. 
2.  Multifocal bronchopneumonia involving right lower lobe and 
left upper 
lobe, superimposed on bibasilar atelectasis. 

Chest XR: 
Linear opacity overlying right lower lung which, if it is 
parenchymal, is 
likely atelectasis.  Additional consolidation in one of lower 
lobes, likely the left.  This could represent infection in the 
proper clinical setting however given symptoms of chest pain, 
CTA should be considered to exclude possibility of infarct in 
the setting of pulmonary embolism. 

 
Brief Hospital Course:
___ woman with history of DVT and recent hospitalization for 
asthma who presented with SOB and reproducible chest pain. 
Patient was on a prednisone taper from her last hospital 
admission and had been weaning slowly from 60mg daily down to 
40mg daily. She then noted increased dyspnea and L sided chest 
pain which worsened over 1 week. She was evaluated by PCP, found 
to have pneumonia on chest xray, and was started on levofloxacin 
(___). She continued to spike a fever to 100.8 at home and 
presented to the ED. CT angiogram showed multifocal PNA in RLL 
and LUL w/atelectasis, with no evidence of PE. She was broadened 
to ceftriaxone and azithromycin and then narrowed back to 
levaquin for total of ___nding ___. It was thought 
that she had bacterial on viral pneumonia. She was treated with 
nebs for asthma exacerbation and continued on her steroid taper. 


#Asthma: Continued cough guaifenesin/codeine, 
fluticasone-salmeterol, montelukast, fluticasone nasal spray and 
cetirizine 

# ___: Cr baseline is 0.8-0.9, 1.3 on admission, likely prerenal 
___ poor PO intake vs. related to NSAID use. Cr normalized this 
AM s/p IVF. 

# MIGRAINES: continued home amitriptyline 

# H/O DVT: not currently on anticoagulation, unknown if 
provoked. 

Transitional Issues: 
- Please check peak flows to ensure pulmonary status is 
improving 
- Antibiotic course is: levaquin 750mg daily, last day ___ 
(total 7 day course) 
- Patient's prednisone taper is as follows: 
 - 40mg daily ___
 - 30mg daily ___
 - 20mg daily ___
 - 10mg daily ___, then stop
- If patient requires extension of prednisone course, please 
consider PCP ___. 
- Sputum culture is pending at discharge 

# CONTACT: ___ (husband) ___  
# Code Status: FULL CODE confirmed  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO DAILY Migraines 
2. Cetirizine 10 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Montelukast 10 mg PO DAILY 
6. PredniSONE 40 mg PO DAILY Asthma 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze/dyspnea 
8. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
9. Ipratropium Bromide Neb 1 NEB IH Q6H 
10. Guaifenesin-CODEINE Phosphate 10 mL PO Q6H:PRN cough 
11. Levofloxacin Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q24H Duration: 6 Days 
___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*6 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth BID PRN Disp #*10 
Tablet Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
This is dose # 1 of 4 tapered doses 
4.  PredniSONE 30 mg PO DAILY Duration: 3 Doses 
Start: After 40 mg DAILY tapered dose 
This is dose # 2 of 4 tapered doses 
5.  PredniSONE 20 mg PO DAILY Duration: 3 Doses 
Start: After 30 mg DAILY tapered dose 
This is dose # 3 of 4 tapered doses 
6.  PredniSONE 10 mg PO DAILY Duration: 3 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 4 of 4 tapered doses 
7.  PredniSONE 10 mg PO AS DIRECTED, PER TAPER 
per taper: 40mg daily ___ 30mg daily ___ 20mg 
daily ___ 10mg daily ___ 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*9 Tablet 
Refills:*0 
8.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze/dyspnea  
9.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze  
10.  Amitriptyline 50 mg PO DAILY Migraines  
11.  Cetirizine 10 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
13.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
14.  Guaifenesin-CODEINE Phosphate 10 mL PO Q6H:PRN cough  
15.  Ipratropium Bromide Neb 1 NEB IH Q6H  
16.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
Pneumonia 
Asthma exacerbation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___ 
___. 

Why you were here: 
- You were feeling short of breath, and we found out that you 
were having an asthma attack and that you have a pneumonia. 
- You were also having chest pain, and we think this is related 
to inflammation in the rib (a condition called 
costochrondritis), which usually gets better with time. The pain 
may also be from the pneumonia. 

What we did while you were here: 
- We did a CT scan of the chest, which showed your pneumonia. 
There were no blood clots in your lungs. There were no broken 
ribs. 
- We treated you for an asthma exacerbation with prednisone and 
nebulizers. We bumped your prednisone back up while you were 
here. 

What to do when you go home: 
- Please take the following prednisone taper: 
  - 40mg daily ___
  - 30mg daily ___
  - 20mg daily ___
  - 10mg daily ___, then stop
- Please take your antibiotic for the full course. You already 
got your dose today, ___. The rest of the pills are for: 
___. 
- Please call your doctor if your chest pain is not improving 
after a week. 
- Please take your medications as described below and go to the 
appointments as listed below. 
- Check your peak flows every day at home. if they aren't 
getting back to normal within ___ weeks please make sure you 
call your primary care doctor. 

We wish you the best! 

Your care team 

 
Followup Instructions:
___